US05434150
2-(4-Cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-(3-thiomorpholino-propyl)-benzimidazole
48.6 g of 3-amino-4-(3-thiomorpholino-propylamino)-benzoic acid-[N-(2-methoxycarbonyl-ethyl)-amide]-hydrochloride are dissolved in 500 ml of glacial acetic acid with heating, 19.5 g of 4-cyano-benzoylchloride are added, the mixture is heated for one hour over a steam bath and a further 2 hours at a bath temperature of 120° C. The mixture is evaporated down in vacuo and the residue is purified by chromatography on silica gel (eluant:methylene chloride/methanol/conc. ammonia=9:1:0 to 8:2:0.2). Yield: 33.7 g (58% of theory), Rf value: 0.84 (silica gel; methylene chloride/methanol/conc. ammonia=19:1:0.1, after developing three times)

reactant | 3-amino-4-(3-thiomorpholino-propylamino)-benzoic acid-[N-(2-methoxycarbonyl-ethyl)-amide]-hydrochloride | 48.6 g | Cl.COC(=O)CCNC(C1=CC(=C(C=C1)NCCCN1CCSCC1)N)=O
reactant | 4-cyano-benzoylchloride | 19.5 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-(4-Cyano-phenyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-1-(3-thiomorpholino-propyl)-benzimidazole | C(#N)C1=CC=C(C=C1)C1=NC2=C(N1CCCN1CCSCC1)C=CC(=C2)C(=O)NCCC(=O)OC | C26H29N5O3S
